US07772226B2
(d) t-Butyl 4-[1-(2-butynyl)-4-carboxy-5-cyano-1H-imidazol-2-yl]piperazine-1-carboxylate
16 ml of a 5N aqueous sodium hydroxide solution was added to a 500 ml ethanol solution of 25.1 g of t-butyl 4-[1-(2-butynyl)-5-cyano-4-ethoxycarbonyl-1H-imidazol-2-yl]piper azine-1-carboxylate, and the mixture was stirred at room temperature for two hours. Then, the solvent was concentrated under reduced pressure. The residue was dissolved in a mixture consisting of 1 L of ethyl acetate and 500 ml of water. 50 ml of 2N hydrochloric acid was added to the solution. The organic layer was washed with 200 ml of a saturated sodium chloride solution, and dried over magnesium sulfate. The organic liquid was concentrated under reduced pressure to give 23.2 g of the title compound.

reactant | sodium hydroxide | 5N | [OH-].[Na+]
reactant | t-butyl 4-[1-(2-butynyl)-5-cyano-4-ethoxycarbonyl-1H-imidazol-2-yl]piper azine-1-carboxylate | 25.1 g | C(C#CC)N1C(=NC(=C1C#N)C(=O)OCC)N1CCN(CC1)C(=O)OC(C)(C)C | C20H27N5O4
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | t-Butyl 4-[1-(2-butynyl)-4-carboxy-5-cyano-1H-imidazol-2-yl]piperazine-1-carboxylate | 23.2 g | C(C#CC)N1C(=NC(=C1C#N)C(=O)O)N1CCN(CC1)C(=O)OC(C)(C)C | C18H23N5O4
